US06180627B2
2-[3-({3-[(1R/S)-1-Amino-2-methoxyethyl]phenethyl}amino)-6-methyl-2-oxo-1(2H)-pyrazinyl]-N-[(3-methyl-1H-indol-5-yl)methyl]acetamide
A solution of tert-butyl (1R/S)-2-methoxy-1-[3-(2-{[5-methyl-4-(2-{[(3-methyl-1H-indol-5-yl)methyl]amino}-2-oxoethyl)-3-oxo-3,4-dihydro-2-pyrazinyl]amino}ethyl)phenyl]ethylcarbamate (preparation 124) (26 mg, 0.043 mmol) in hydrochloric acid (2 ml, 6N, 12 mmol) and methanol (2 ml), was stirred under a nitrogen atmosphere for 3 hrs. The reaction mixture was basified to pH 10 using 1N NaOH solution, extracted with dichloromethane (4×10 ml), and ethyl acetate (3×10 ml). The combined organic extracts were dried over MgSO4, and evaporated under reduced pressure to give the title compound as a white solid, (13 mg, 60%). Both R, and S isomers are present although their relative proportions have not been determined.

reactant | tert-butyl (1R/S)-2-methoxy-1-[3-(2-{[5-methyl-4-(2-{[(3-methyl-1H-indol-5-yl)methyl]amino}-2-oxoethyl)-3-oxo-3,4-dihydro-2-pyrazinyl]amino}ethyl)phenyl]ethylcarbamate | 0.043 mmol, 26 mg | COCC(C1=CC(=CC=C1)CCNC1=NC=C(N(C1=O)CC(=O)NCC=1C=C2C(=CNC2=CC1)C)C)NC(OC(C)(C)C)=O | C33H42N6O5
reactant | hydrochloric acid | 12 mmol, 6N, 2 ml | Cl | ClH
reactant | NaOH | 1N | [OH-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
product | 2-[3-({3-[(1R/S)-1-Amino-2-methoxyethyl]phenethyl}amino)-6-methyl-2-oxo-1(2H)-pyrazinyl]-N-[(3-methyl-1H-indol-5-yl)methyl]acetamide | 13 mg, 60% | NC(COC)C=1C=C(CCNC=2C(N(C(=CN2)C)CC(=O)NCC=2C=C3C(=CNC3=CC2)C)=O)C=CC1 | C28H34N6O3
